US04281118
A solution of 5.0 g (0.0060 mole) of 4,4'-((4-chloro-1,3-phenylene)bis(sulfonyl-3,1-propanediyl))bismorpholine bis(4-methylbenzenesulfonate), 1.4 g (0.0060 mole) of S-(3-(4-morpholinyl)propyl)isothiourea hydrochloride and 0.8 g (0.02 mole) of sodium hydroxide in 80 ml of water was heated under reflux with stirring for 3.5 hours, cooled and extracted with methylene chloride. The extract was dried over anhydrous sodium sulfate, and the solvent was removed by evaporation, leaving the product as 4,4'-((4-((3-(4-morpholinyl)propyl)thio)-1,3-phenylene)bis(sulfonyl-3,1-propanediyl))bismorpholine a yellow, viscous oil.

reactant | 4,4'-((4-chloro-1,3-phenylene)bis(sulfonyl-3,1-propanediyl))bismorpholine bis(4-methylbenzenesulfonate) | 0.0060 mole, 5.0 g | CC1=CC=C(C=C1)S(=O)(=O)O.CC1=CC=C(C=C1)S(=O)(=O)O.ClC1=C(C=C(C=C1)S(=O)(=O)CCCN1CCOCC1)S(=O)(=O)CCCN1CCOCC1
reactant | S-(3-(4-morpholinyl)propyl)isothiourea hydrochloride | 0.0060 mole, 1.4 g | Cl.N1(CCOCC1)CCCSC(N)=N
reactant | sodium hydroxide | 0.02 mole, 0.8 g | [OH-].[Na+]
solvent | water | 80 ml | O | H2O
product | 4,4'-((4-((3-(4-morpholinyl)propyl)thio)-1,3-phenylene)bis(sulfonyl-3,1-propanediyl))bismorpholine | N1(CCOCC1)CCCSC1=C(C=C(C=C1)S(=O)(=O)CCCN1CCOCC1)S(=O)(=O)CCCN1CCOCC1 | C27H45N3O7S3
